US09260408B2
N-((5-Bromopyridin-3-yl)methyl)-N-methylethanesulfonamide
To a solution of ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide (intermediate A-11, 0.21 g, 0.752 mmol) in DMF (6 mL) cooled at 0° C. with an ice bath was added 60% NaH in mineral oil (0.039 g, 0.98 mmol) and the mixture was stirred for 15 min. Then, MeI (0.136 g, 0.96 mmol) was added and the reaction was stirred at 0° C. for another 15 min before being quenched with aq. ammonia (2 mL). The mixture was further diluted with brine and then extracted with EtOAc (2×15 mL). Combined organics were dried over Na2SO4, filtered and evaporated to dryness to give the title compound (0.209 g, 85%) as a yellow oil which was used with no further purification. MS: 293.1 and 295.1 (M+H+).

reactant | ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide | 0.752 mmol, 0.21 g | BrC=1C=C(C=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
reactant | NaH | [H-].[Na+]
reactant | MeI | 0.96 mmol, 0.136 g | CI | CH3I
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-((5-Bromopyridin-3-yl)methyl)-N-methylethanesulfonamide | 0.209 g, 85% | BrC=1C=C(C=NC1)CN(S(=O)(=O)CC)C | C9H13BrN2O2S
